US08729263B2
As described in GENERAL METHOD 3-1, thiophenol (0.02 mL, 0.23 mmol) was added to a microwave vial containing 6-(4-(4-amino-1H-pyrazol-1-yl)-2-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (100 mg, 0.23 mmol) and K2CO3 (31.7 mg, 0.23 mmol) and NMP (2 mL). The microwave vial was evacuated and filled with N2 (2×). The reaction mixture was heated in a microwave reactor at 190° C. for 20 min, then filtered through celite (pre-packed filter funnel) with methanol. The filtrate was acidified to pH 3 using 1 M HCl aqueous solution and then adsorbed onto a methanol conditioned SCX column. The column was washed several times with methanol then eluted with 2 N ammonia in methanol solution. The eluent was collected, concentrated in vacuo, then purified by preparative HPLC under basic conditions to give 5-(4-amino-1H-pyrazol-1-yl)-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol (50 mg, MS: 422.26 [M+H+]; LCMS Rt=0.43 min (LCMS method Q); 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.68 (d, J=10.11 Hz, 1H), 7.49 (d, J=8.59 Hz, 1H), 7.43 (s, 1H), 7.29 (s, 1H), 7.18 (dd, J=8.59, 2.53 Hz, 1H), 7.12 (d, J=2.02 Hz, 1H), 6.89 (d, J=9.60 Hz, 1H), 4.77-4.93 (m, 1H), 2.92 (s, 3H), 1.61 (dd, J=12.38, 3.28 Hz, 2H), 1.33 (t, J=12.38 Hz, 2H), 1.27 (s, 6H), 1.10 (s, 6H).

reactant | thiophenol | 0.23 mmol, 0.02 mL | C1(=CC=CC=C1)S | C6H6S
reactant | 6-(4-(4-amino-1H-pyrazol-1-yl)-2-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.23 mmol, 100 mg | NC=1C=NN(C1)C1=CC(=C(C=C1)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C)OC | C24H33N7O
reactant | K2CO3 | 0.23 mmol, 31.7 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 5-(4-amino-1H-pyrazol-1-yl)-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol | NC=1C=NN(C1)C=1C=CC(=C(C1)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C23H31N7O
